US05750050
Step 1.3 Preparation of 2-methylphenyl acetate.
Ice (300 g) was added to o-cresol (21.6 g, 0.2 mol) dissolved in a solution of sodium hydroxide (12 g, 0.3 mol in water (100 ml). Acetic anhydride (30.6 g, 0.3 mol) was then added and the mixture was shaken for 1 min. The product was extracted into ether and then purified by reduced pressure distillation.

reactant | o-cresol | 0.2 mol, 21.6 g | C1(=CC=CC=C1O)C | C7H8O
reactant | Acetic anhydride | 0.3 mol, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-methylphenyl acetate | C(C)(=O)OC1=C(C=CC=C1)C | C9H10O2
